US05679712
Example 1: 3-Acetyl-4-hydroxybenzoylguanidine
1.0 eq. of 3-acetyl-4-hydroxybenzoic acid was reacted in accordance with Variant A with 1.1 eq. of carbonyldiimidazole and 5 eq. of guanidine. Colorless crystals, mp 218°-221° C.

reactant | 3-acetyl-4-hydroxybenzoic acid | 1.0 eq. | C(C)(=O)C=1C=C(C(=O)O)C=CC1O | C9H8O4
reactant | carbonyldiimidazole | 1.1 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | guanidine | 5 eq. | NC(=N)N | CH5N3
product | 3-Acetyl-4-hydroxybenzoylguanidine | C(C)(=O)C=1C=C(C(=O)NC(=N)N)C=CC1O | C10H11N3O3
